US05536718
4-[([1,1'-Biphenyl]-2-carbonyl)amino]-2-chlorobenzoic Acid
A mixture of 3.0 g of methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoate in 75 ml of absolute ethanol and 2.0 ml of 10N sodium hydroxide is heated on a steam bath for 3 hours. Water is added to obtain a solution which is extracted with methylene chloride. The aqueous phase is acidified with acetic acid and the resulting solid collected and dried in vacuo at 80° C. to give 0.1 g of the desired product as a crystalline solid, m.p. 217°-219° C.

reactant | methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoate | 3.0 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)OC)C=C1)Cl)C1=CC=CC=C1 | C21H16ClNO3
reactant | Water | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 2.0 ml | [OH-].[Na+]
product | 4-[([1,1'-Biphenyl]-2-carbonyl)amino]-2-chlorobenzoic Acid | 0.1 g | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1)Cl)C1=CC=CC=C1 | C20H14ClNO3
